US04337247
(III) Production of BOC-Tyr-(D)-Met(O)-Gly-Phe-NHNHCONH2
In 5 ml of acetic acid is dissolved 900 mg of BOC-Tyr-(D)-Met-Gly-Phe-NHNHCONH2 followed by addition of 0.24 ml of 30% aqueous H2O2. The solution is stirred for 10 minutes, treated with 100 ml of ether and filtered to obtain a powder. Yield 760 mg; m.p. 114°-121° C.; [α]D21.5 -2.6° (c=0.89, DMF); Rf2 0.38.

reactant | BOC-Tyr-(D)-Met-Gly-Phe-NHNHCONH2 | 900 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C(=O)OC(C)(C)C | C31H43N7O8S
reactant | H2O2 | 0.24 ml | OO | H2O2
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | BOC-Tyr-(D)-Met(O)-Gly-Phe-NHNHCONH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCS(=O)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C(=O)OC(C)(C)C | C31H43N7O9S
